US04659651
That is, 276 g (3.14 moles) of 1,3-dimethylurea and 376 g (3.62 moles) of malonic acid were dissolved in 600 ml of glacial acetic acid at 60° to 70° C., and then, after adding thereto 1250 ml of acetic anhydride, the temperature of the mixture was gradually increased to 90° C. Then, after stirring the mixture for 6 hours at the same temperature, the reaction mixture was allowed to stand overnight at room temperature and glacial acetic acid and acetic anhydride were distilled off under reduced pressure. The residue thus formed was added to 500 ml of ethanol while still hot and the crystals thus precipitated were collected by filtration, heat-refluxed for 2 hours with 380 ml of concentrated hydrochloric acid and 400 ml of water, and then allowed to stand for 6 hours under ice-cooling. The crystals thus precipitated were collected by filtration and washed with a small amount of ethanol to provide 360 g of 1,3-dimethylbarbituric acid.

reactant | 1,3-dimethylurea | 3.14 moles, 276 g | CNC(=O)NC | C3H8N2O
reactant | malonic acid | 3.62 moles, 376 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetic anhydride | 1250 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethanol | 500 ml | C(C)O | C2H6O
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 1,3-dimethylbarbituric acid | 360 g | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
